US06503907B2
To 6.7 g (30 mmol) 5-benzyloxyindole and 6.6 g (30 mmol) di-tert.-butyldicarbonate in 80 ml DMF were added 3.7 g (33 mmol) potassium tert. butylate at RT and the mixture was stirred at 60° C. for 4 h, cooled to RT and ether /0.5 M HCl were added. The inorganic phase was extracted with ether, the combined organic phases were washed with water and dried over Na2SO4. Evaporation yielded crude 5-Benzyloxy-indole-1-carboxylic acid tert-butyl ester as colorless oil, MS: 323 (M).

reactant | 5-benzyloxyindole | 30 mmol, 6.7 g | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | di-tert.-butyldicarbonate | 30 mmol, 6.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ether | 0.5 M | CCOCC | C4H10O
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 5-Benzyloxy-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)OCC1=CC=CC=C1 | C20H21NO3
